US08193228B2
2-[2-fluoro-4-(5-fluoropyridin-2-yl)phenyl]-1-[4-(2-methylprop-1-en-1-yl)-1H-imidazol-2-yl]propan-2-ol
Step C In a quartz tube, 1-bromo-4-methyl-4-(methylsulfonyl)pentan-2-one (26 mg, 0.10 mmol), the di(trifluoroacetate) salt of (±)-3-[2-fluoro-4-(5-fluoropyridin-2-yl)phenyl]-3-hydroxybutanimidamide (105 mg, 0.202 mmol), and sodium hydrogen carbonate (53 mg, 0.63 mmol) were suspended in a mixture of tetrahydrofuran (1.5 mL) and water (0.5 mL). After being irradiated by microwave (120° C., 10 min), the reaction mixture was purified by reversed-phase high performance liquid chromatography to afford the di(trifluoroacetate) salt of the title compound. (M+H) found 370.

reactant | 1-bromo-4-methyl-4-(methylsulfonyl)pentan-2-one | 0.10 mmol, 26 mg | BrCC(CC(C)(S(=O)(=O)C)C)=O | C7H13BrO3S
reactant | (±)-3-[2-fluoro-4-(5-fluoropyridin-2-yl)phenyl]-3-hydroxybutanimidamide | 0.202 mmol, 105 mg | FC1=C(C=CC(=C1)C1=NC=C(C=C1)F)C(CC(N)=N)(C)O | C15H15F2N3O
reactant | sodium hydrogen carbonate | 0.63 mmol, 53 mg | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 1.5 mL | O1CCCC1 | C4H8O
solvent | water | 0.5 mL | O | H2O
product | 2-[2-fluoro-4-(5-fluoropyridin-2-yl)phenyl]-1-[4-(2-methylprop-1-en-1-yl)-1H-imidazol-2-yl]propan-2-ol | FC1=C(C=CC(=C1)C1=NC=C(C=C1)F)C(CC=1NC=C(N1)C=C(C)C)(C)O | C21H21F2N3O
